US08304380B2
To a mixture of crotonic aldehyde (165.2 g, 2.36 mol), 2-methyl-penta-1,3-diene (361.6 g, 4.41 mol) and formalin (37% in water (200 g, 2.46 mol) was added a mixture of pyrrolidine (16.0 g, 0.22 mol) and propionic acid (17.0 g, 0.23 mol). The mixture was placed in an autoclave and heated to 60-100° C. for 8 h. The reaction mixture was cooled to room temperature, diluted with sat. NaHCO3 and extracted 3 times with MTBE (200 ml). The combined org. layers were washed with brine (200 ml), dried (MgSO4) and evaporated in vacuo. The residue was purified by distillation to give 2,4-dimethyl-1-vinylcyclohex-3-enecarbaldehyde (50% yield). Boiling point: 50-53° C./0.15 mbar.

reactant | crotonic aldehyde | 2.36 mol, 165.2 g | C/C=C/C=O | C4H6O
reactant | 2-methyl-penta-1,3-diene | 4.41 mol, 361.6 g | CC(=C)C=CC | C6H10
reactant | formalin | C=O | CH2O
reactant | water | 2.46 mol, 200 g | O | H2O
reactant | pyrrolidine | 0.22 mol, 16.0 g | N1CCCC1 | C4H9N
reactant | propionic acid | 0.23 mol, 17.0 g | C(CC)(=O)O | C3H6O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2,4-dimethyl-1-vinylcyclohex-3-enecarbaldehyde | 50% yield | CC1C(CCC(=C1)C)(C=O)C=C | C11H16O
